US07855297B2
By the reaction and treatment in the same manner as in Example 106 using N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.66 g) and 3-chloro-N,N-dimethylpropylamine hydrochloride (0.32 g) as starting materials, N-[(4-dimethylaminophenyl)-methyl]-5-[3-(dimethylamino)propoxy]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.5 g) was obtained. Oxalic acid was added to this compound. By recrystallization from isopropyl alcohol, N-[(4-dimethylaminophenyl)methyl]-5-[3-(dimethylamino)propoxy]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide oxalate ⅘ hydrate (0.18 g) was obtained.

reactant | N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.66 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | 3-chloro-N,N-dimethylpropylamine hydrochloride | 0.32 g | Cl.ClCCCN(C)C
product | N-[(4-dimethylaminophenyl)-methyl]-5-[3-(dimethylamino)propoxy]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.5 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)OCCCN(C)C)C1=CC=C(C=C1)C(C)C)C | C34H45N3O2
